Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
atorvastatin
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ gentleman with a history of CAD, 
HTN, CKD, diastolic HF, PVD, and HIV (last CD4 count 538 in 
___ who presents with chest pain.  

Patient reports acute onset of substernal chest pain this 
morning while waiting for his ride to take him to his cardiac 
rehab program at ___.  He took 3 SL NTG with no relief.  He 
called his PCP, who referred him to the ED.  Patient also felt 
his "heart racing."  He denies shortness of breath, diaphoresis, 
or nausea/vomiting.  He states that this pain is similar to the 
pain he felt in ___ when his stent was placed.

Patient participates in a cardiac rehab exercise program twice 
weekly, where he walks on a treadmill and lifts weights.  He 
never has chest pain or shortness of breath with exertion.  
Since his stent was placed in ___, he has not had any chest 
pain and not required any SL NTG.

In the ED, intial vitals were: T 97.8, HR 62, BP 156/69, RR 18, 
SaO2 100% 2L.  Labs were notable for Hg 8.8 (9.6 in ___, Cr 
2.1 (2.0 in ___ though previously had been 1.3-1.5), Na 128, 
K 5.8, and TnT 0.02.  EKG showed no ST or T wave changes.  He 
was given 3 NTG, which initially did not relieve his chest pain, 
though pain then abated ___ minutes after last NTG.  He was 
also given ASA 81mg, 500cc IV NS, CaGluc 1g, and IV morphine 
2mg.  Exam notable for no evidence of volume overload, guaiac 
negative stool.

On the floor, patient reports resolution of his chest pain.  
Aside from "hunger pain," he feels well.
 
Past Medical History:
1. CARDIAC RISK FACTORS: +hypertension, +dyslipidemia, +diabetes
2. CARDIAC HISTORY:  
- CABG:  None
- PERCUTANEOUS CORONARY INTERVENTIONS:  CAD s/p Promus DES to 
mid-LAD, D1 branch, and distal-RCA on ___, s/p Premier DES 
to mLCX on ___
- PACING/ICD:  None
3. OTHER PAST MEDICAL HISTORY:  
- Mild AR
- CKD (Cr 1.4)
- PAD
- SIADH
- HIV
- HCV cirrhosis, portal HTN
- GERD
- Chronic diarrhea
- Cervical stenosis
- COPD
- Colonic polyps
- Anemia of chronic disease, G6PD deficiency
- Peripheral neuropathy
- ? pulmonary TB
- +RPR treated in the ___
 
Social History:
___
Family History:
Patient thinks mother had heart disease, but unclear what kind. 
No history of early MI, SCD, arrhythmia, CHF.
 
Physical Exam:
ADMISSION EXAM:
=================
VS: T 97.9, HR 68, BP 187/78, RR 22, SaO2 100% RA
Weight: 68.1 kg  
GENERAL: Well-appearing ___ gentleman, in no acute 
distress. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no 
pallor or cyanosis of the oral mucosa.
NECK: Supple, JVP elevated to jawline.  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops.
LUNGS: No chest wall deformities, scoliosis or kyphosis. 
Respirations unlabored, no accessory muscle use. Bibasilar 
crackles, no wheezes or rhonchi.  
ABDOMEN: +BS, obese, distended, tympanitic, nontender. No HSM or 
tenderness.  
EXTREMITIES: No clubbing, cyanosis, or edema. +Varicosities. L 
leg warmer than R. 
SKIN: No stasis dermatitis or ulcers. 
PULSES: Distal pulses bounding.

DISCHARGE EXAM:
=================
VS: Tm 98.2/Tc 97.9, HR 68, BP 134/64 (130s-140s/60s), RR 20, 
SaO2 99% RA
Weight: 68.1 kg  
GENERAL: Well-appearing ___ gentleman, in no acute 
distress. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no 
pallor or cyanosis of the oral mucosa.
NECK: Supple, JVP 7 cm. 
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops.
LUNGS: Respirations unlabored, no accessory muscle use. Lungs 
CTAB.
ABDOMEN: +BS, obese, mildly distended, nontender. No HSM or 
tenderness.  
EXTREMITIES: No clubbing, cyanosis, or edema
SKIN: Varicosities of left leg with surrounding 
hyperpigmentation, no stasis dermatitis or ulcers.
PULSES: Distal pulses 2+ bilaterally, radial pulses bounding.
 
Pertinent Results:
ADMISSION LABS:
=================
___ 01:40PM BLOOD WBC-3.4* RBC-2.80* Hgb-8.8* Hct-27.6* 
MCV-99* MCH-31.5 MCHC-31.9 RDW-13.0 Plt Ct-89*
___ 01:40PM BLOOD Neuts-44.8* Lymphs-43.9* Monos-7.3 
Eos-3.9 Baso-0.1
___ 01:40PM BLOOD Glucose-117* UreaN-47* Creat-2.1* Na-129* 
K-5.8* Cl-100 HCO3-19* AnGap-16
___ 01:40PM BLOOD Calcium-8.7 Phos-4.0 Mg-1.6
___ 01:46PM BLOOD ___ PTT-39.1* ___

INTERM LABS:
==============
___ 01:40PM BLOOD cTropnT-0.02* proBNP-132
___ 08:50PM BLOOD cTropnT-0.02*
___ 07:20AM BLOOD cTropnT-0.02*

DISCHARGE LABS:
=================

___ 07:20AM BLOOD WBC-2.6* RBC-2.73* Hgb-8.9* Hct-26.9* 
MCV-99* MCH-32.7* MCHC-33.2 RDW-13.0 Plt Ct-86*
___ 07:20AM BLOOD Glucose-106* UreaN-48* Creat-2.1* Na-135 
K-5.5* Cl-103 HCO3-20* AnGap-18
___ 07:20AM BLOOD Calcium-9.1 Phos-4.1 Mg-1.7

IMAGING/STUDIES:
==================

Persantine MIBI (___):
INTERPRETATION: This ___ year old man with h/o HTN, HLD, CKD, and 
 PVD; s/p MI in ___ and stents in ___ and ___ with known CAD 
was referred to the lab for evaluation of chest pain. The 
patient exercised for 8 minutes of a Modified Gervino protocol 
(~ ___ METS), representing a poor exercise tolerance for his 
age. The test was stopped due to fatigue. No chest, neck, back, 
or arm discomforts were reported by the patient throughout the 
study. At peak exercise, there was 0.5 mm of upsloping ST 
segment depression isolated to lead V6, resolving by 15 seconds 
of recovery. The rhythm was sinus with frequent, isolated APBs, 
including multiple prolonged periods of bigeminy. Appropriate 
blood pressure response to exercise. Blunted heart rate response 
to exercise in the presence of beta blocker therapy.  
IMPRESSION: No anginal type symptoms or objective evidence of 
myocardial ischemia. Frequent atrial ectopy. 

CXR (___):
AP portable upright view of the chest.   Spinal fusion hardware 
partially 
imaged in the neck. The heart remains mildly enlarged. 
Mediastinal contours stable. Mild silhouetting of the right 
heart border is unchanged likely reflecting the presence of a 
fat pad. The lungs are clear without focal consolidation, large 
effusion or pneumothorax. No convincing signs of edema. Bony 
structures are intact. No free air below the right 
hemidiaphragm.
 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with a history of CAD, 
HTN, CKD, diastolic HF, PVD, and HIV (last CD4 count 538 in 
___ who presents with chest pain.  

# Chest pain:  Patient reported substernal chest pain similar to 
the pain at the time his last DES was placed, very concerning 
for unstable angina.  His troponin was mildly elevated at 0.02 
(in the setting of CKD) but remained stable.  An EKG showed no 
ischemic changes.  Patient's chest pain resolved in the ED after 
SL NTG and morphine.  A myocardial perfusion study revealed no 
anginal type symptoms or objective evidence of myocardial 
ischemia.  His chest pain may have been related to underlying 
LVH in the setting of worsening anemia.  He was continued on 
ASA, Plavix, carvedilol, and pravastatin 20 mg daily and 
scheduled for follow-up with cardiology. 

# Diastolic heart failure:  Patient appeared mildly hypervolemic 
on admission but was euvolemic on discharge.  Lasix 40 mg was 
continued.  Given orthostasis and hyperkalemia, losartan was 
held and isosorbide mononitrate was reduced from 120 mg to 90 mg 
daily. 

# Chronic kidney disease c/b hyperkalemia:  Creatinine on 
admission was 2.1, stable from 2.0 in ___.  Creatinine in 
___ ranged from 1.3-1.5.  This likely represents progression of 
his underlying CKD.  K was 5.8 on admission, 5.5 on discharge.  
This was likely a combination of CKD and losartan, which was 
discontinued.  Patient was instructed to have labs rechecked on 
___ at ___'s office. 

# Hypertension:  Patient's blood pressure was well-controlled.  
He was continued on carvedilol, diltiazem, and hydralazine.  
Given symptomatic orthostasis, isosorbide mononitrate was 
decreased from 120 mg to 90 mg daily and losartan was 
discontinued.

# Anemia: H/H 8.8/27.6 from 9.6/30.8 in ___.  Likely related 
to known anemia of chronic disease, HIV, CKD.  No reports of 
melena or hematochezia, guaiac negative.  Chest pain may be 
exacerbated by anemia and patient may benefit from EPO.

# HIV:  Patient was continued on efavirenz, lamivudine 
(appropriately renally dosed), and abacavir. 

TRANSITIONAL ISSUES:
========================
[ ] Given orthostasis and hyperkalemia (K 5.5 on discharge), 
losartan was discontinued and isosorbide mononitrate was reduced 
from 120 mg to 90 mg daily.
[ ] Consider referral to renal for consideration of EPO to 
improve anemia, which may improve chest pain.
[ ] Patient was instructed to schedule a PCP appointment on 
___. Please check CBC and chem-10 on ___ to evaluate 
anemia, renal function, electrolytes (given hyperkalemia).
[ ] Patient was instructed to schedule a cardiology appointment 
in the next week to follow-up on medication changes, and titrate 
medications accordingly.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 
2. Carvedilol 25 mg PO BID 
3. Clopidogrel 75 mg PO DAILY 
4. Desonide 0.05% Cream 1 Appl TP DAILY PRN irritation 
5. Diltiazem Extended-Release 120 mg PO DAILY 
6. Efavirenz 600 mg PO DAILY 
7. Furosemide 40 mg PO DAILY 
8. HydrALAzine 75 mg PO Q6H 
9. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H 
10. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
11. LaMIVudine 150 mg PO DAILY 
12. LOPERamide 2 mg PO QID:PRN diarrhea 
13. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
14. oxybutynin chloride 5 mg oral daily 
15. Aspirin 81 mg PO DAILY 
16. Docusate Sodium 100 mg PO BID 
17. Abacavir Sulfate 300 mg PO BID 
18. Pravastatin 20 mg PO QPM 

 
Discharge Medications:
1. Abacavir Sulfate 300 mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. Carvedilol 25 mg PO BID 
4. Clopidogrel 75 mg PO DAILY 
5. Desonide 0.05% Cream 1 Appl TP DAILY PRN irritation 
6. Diltiazem Extended-Release 120 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Efavirenz 600 mg PO DAILY 
9. Furosemide 40 mg PO DAILY 
10. HydrALAzine 75 mg PO Q6H 
11. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H 
12. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
RX *isosorbide mononitrate 60 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
RX *isosorbide mononitrate 30 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
13. LaMIVudine 150 mg PO DAILY 
14. LOPERamide 2 mg PO QID:PRN diarrhea 
15. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
16. Pravastatin 20 mg PO QPM 
17. oxybutynin chloride 5 mg oral daily 
18. Outpatient Lab Work
Labs:  CBC, Chemistry
Check:  Week of ___
ICD-9:  285.9 (anemia), 585.9 (chronic kidney disease)
Send results to:  Name: ___ 
Phone: ___ 
Fax: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
======================
Unstable angina
Hyperkalemia

SECONDARY DIAGNOSES:
======================
Coronary artery disease
Hypertension
Chronic diastolic heart failure
Chronic kidney disease
Anemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your stay at ___.  
You were admitted for chest pain.  Lab tests and an EKG 
indicated that you did not have a heart attack.  An exercise 
stress test was normal, which means that there are no 
significant blockages of the blood vessels in your heart.  

Your kidney function has worsened since last year and your blood 
counts are very low.  This may be contributing to your chest 
pain.  Your potassium level was also high, which is likely a 
combination of your kidney disease and losartan (which was 
stopped on discharge).  Because your blood pressure dropped on 
standing, the dose of isosorbide mononitrate was reduced.  It is 
very important that you schedule an appointment to see your PCP 
on ___ to have your labs rechecked and to 
review your medications. 

We wish you good health!
Your ___ Team
 
Followup Instructions:
___